US04201784
2-[4'-(5"-nitrofuryl-2")-1,3-butadienyl]quinoline-4-carboxylic acid (α-methyl-δ-diethylaminobutyl)amide diphosphate was prepared as described in Example 9 from 2-[2'-(5"-nitrofuryl-2")vinyl]quinoline-4-carboxylic acid (α-methyl-δ-diethylaminobutyl)amide and ortho-phosphoric acid. The yield was 68.1%, m.p. 176°-178° C.

reactant | quinoline-4-carboxylic acid (α-methyl-δ-diethylaminobutyl)amide | CC(CCCN(CC)CC)NC(=O)C1=CC=NC2=CC=CC=C12 | C19H27N3O
reactant | ortho-phosphoric acid | P(O)(O)(O)=O | H3O4P
product | quinoline-4-carboxylic acid (α-methyl-δ-diethylaminobutyl)amide diphosphate | yield was 68.1% | OP(O)(=O)OP(=O)(O)O.CC(CCCN(CC)CC)NC(=O)C1=CC=NC2=CC=CC=C12 | InChI=1S/C19H27N3O.H4O7P2/c1-4-22(5-2)14-8-9-15(3)21-19(23)17-12-13-20-18-11-7-6-10-16(17)18;1-8(2,3)7-9(4,5)6/h6-7,10-13,15H,4-5,8-9,14H2,1-3H3,(H,21,23);(H2,1,2,3)(H2,4,5,6)
